2157-04-09 08:02:00 Physician Resident Progress Note
TITLE: CCU Resident Progress Note
   Chief Complaint: cardiac arrest
   24 Hour Events:
   - family update on likely poor prognosis, very reasonable about plans
   - plan to wait until the AM, warm him, allow his daughter to come and
   then reassess goals of care
   - EEG placed
   - neuro eval demosntrates likely anoxic myoclonus, unreactive 2 mm
   puplis, eyes skew, no response to cold calorics, no corneal reflexes,
   partial decerebrate postures with the leftmore than the right arm.
   - Propofol results in resolution of the twitching and the apparent
   sharp activity on EEG. : Prognosis is poor on the basis of the exam
   yesterday. I can't judge the exam reliably in the face of cooling.
   - dilantin loaded with IV and then PO
   - did not get echo as had to go down for head CT
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Norepinephrine - 0.03 mcg/Kg/min
   Dopamine - 20 mcg/Kg/min
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Insulin - Regular - [**2157-4-9**] 06:40 AM
   Dextrose 50% - [**2157-4-9**] 06:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-4-9**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 80 (48 - 104) bpm
   BP: 93/49(65) {86/41(56) - 132/68(90)} mmHg
   RR: 19 (5 - 33) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  4,464 mL
                                                                  1,850 mL
   PO:
             TF:
   IVF:
                                                                  4,314 mL
                                                                  1,710 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                     25 mL
   Urine:
                                                                    400 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,064 mL
                                                                  1,825 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 190 (190 - 190) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 231
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: 7.31/33/116/15/-8
   Ve: 9.4 L/min
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: nonresponsive
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, does not respond to noxious stimuli
   Labs / Radiology
   163 K/uL
   9.9 g/dL
   146 mg/dL
   2.5 mg/dL
   15 mEq/L
   5.9 mEq/L
   67 mg/dL
   103 mEq/L
   133 mEq/L
   30.8 %
   14.1 K/uL
        [image002.jpg]
                             [**2157-4-7**]  09:00 PM
                             [**2157-4-7**]  09:18 PM
                             [**2157-4-8**]  04:10 AM
                             [**2157-4-8**]  04:23 AM
                             [**2157-4-8**]  08:14 AM
                             [**2157-4-8**]  10:02 AM
                             [**2157-4-8**]  04:10 PM
                             [**2157-4-8**]  04:18 PM
                             [**2157-4-9**]  01:03 AM
                             [**2157-4-9**]  04:20 AM
   WBC
   9.6
   9.6
   14.1
   Hct
   32.6
   32.0
   30.7
   30.8
   Plt
   145
   152
   163
   Cr
   1.5
   1.6
   1.9
   2.5
   TropT
   0.39
   0.44
   0.73
   TCO2
   19
   16
   17
   17
   19
   17
   Glucose
   153
   101
   118
   146
   Other labs: PT / PTT / INR:17.8/34.2/1.6, CK / CKMB /
   Troponin-T:669/17/0.73, ALT / AST:95/93, Alk Phos / T Bili:151/1.0,
   Amylase / Lipase:61/, Differential-Neuts:86.7 %, Lymph:7.3 %, Mono:4.9
   %, Eos:0.8 %, Lactic Acid:1.6 mmol/L, Albumin:3.9 g/dL, LDH:403 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:7.6 mg/dL
   Assessment and Plan
   Patient is an 85 year-old male with a history of CAD s/p CABG [**2143**]
   (SVG-LCx, LIMA-LAD), redo in [**2152**] (SVG>PDA) with AVR, constrictive
   pericarditis who presents from home after PEA arrest, taken emergently
   to cath lab and found to have distal LAD lesion treated with POBA.
   Etiology of PEA arrest remains unclear.
   .
   # Cardiac arrest: Reportedly in PEA arrest initially with conversion to
   VT after CPR.  Intubated in the ED.  He was started on amiodarone gtt
   in [**Hospital1 19**] ED.  Differential for PEA arrest includes cardiac ischemia
   although grafts were patent, distal LAD disease treated with POBA vs
   pulmonary embolism vs heart failure vs primary electrical disease vs
   intracranial hemorrhage (reportedly normal mental status prior to
   arrest) vs tamponade.  There is no evidence for hypovolemia/bleeding,
   hyper/hypokalemia (K on arrival to ED was 4.0), medication overdoses,
   or trauma.  Acidosis was evident on arrival to ED, however may have
   been a result of arrest vs cause of. Patient was on Amiodarone drip
   post arrest. Patient s/p cooling protocol with Arctic sun.
   - d/c amio drip, consider starting oral amiodarone
   - Serial ABGs, goal CO2 35-40.
   - Continuous EEG monitoring to assess for status epilepticus once
   patient returns from CT scan - high incidence of status epilepticus in
   post arrest patients, using propofol
   - echocardiogram today
   - Pressors as needed to keep MAPs>65, now currently on dopamine as well
   as levo
   - Continue ASA.  Will continue plavix as reportedly had BMS x 2 in
   9/[**2156**].
   - Trend lactate.  5.1 on admission > 1.6.
   - Tight glycemic control.  Discussed with his outpatient
   endocrinologist who says patient does not do well on lantus.
   .
   # Neurologic function
 patient without corneal reflexes, no response
   to cold calorics, and no response to noxious stimuli. Neurology has
   been following given concern for anoxic brain injury. Does not appear
   to have brainstem reflexes.
   - appreciate neurology recs, suspect that will need to have meeting
   today with family with neurology present to risk stratify
   #. CAD s/p CABG ([**2143**], redo [**2152**]).  Cardiac catheterization today
   revealed distal LAD disease s/p POBA. Troponins uptrending still 0.78
   this morning. CK peaked at 1120 now downtrending.
   - Continue ASA, Plavix, high dose statin
   - hold BB given hypotension
   .
   #. Pump: Hemodynamics on catheterization not assessed on cath.
   - Echocardiogram in the AM.
   .
   # Rhythm: s/p PEA arrest, converted to VT prior to ED arrival.  Now in
   atrial fibrillation on telemetry.
   - Not on coumadin at outpatient given history of frequent falls.
   - Continue to monitor closely on telemetry.
   .
   #. s/p AVR: Bioprosthetic valve
   - Evaluate aortic function with echocardiogram in the AM.
   .
   # Constrictive pericarditis: Reportedly with h/o stripping.
   - Check echo in the AM.
   # DM, type 2: Discussed with outpatient endocrinologist.
   - Will give 10U NPH [**Hospital1 7**] for now.  FS QID
   .
   # Chronic renal failure: Per outside records appears that baseline
   renal function is 1.5 which is where he is on admission.
   - Continue to monitor closely
   - Renally dose all medications.
   .
   #. FEN:
   - NPO for now.  Will place OG tube while intubated.
   - Nutrition c/s for TF recs
   - Follow electrolytes and replete PRN.
   .
   #. Access:
   - Right femoral line
   - Right femoral Aline - will attempt to change overnight.
   .
   #. PPx: PPI, bowel regimen, heparin gtt
   .
   #. Code: Presumed full
   .
   #. Dispo: CCU
   .
   # Comm:
   - Daughter [**First Name8 (NamePattern2) **] [**Name (NI) 5998**] [**Telephone/Fax (1) 5999**]
   - Granddaughter [**Name (NI) 1321**] [**Name (NI) 6000**] [**Telephone/Fax (1) 6001**].
   - Grandson [**Name (NI) **] [**Name (NI) 6000**] [**Telephone/Fax (1) 6002**]
   - [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1072**] [**Telephone/Fax (1) 6003**], [**Telephone/Fax (1) 6004**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2157-4-7**] 04:22 PM
   18 Gauge - [**2157-4-7**] 04:24 PM
   Arterial Line - [**2157-4-8**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-04-10 06:33:00 Physician Resident Progress Note
TITLE: CCU Progress Note
   Chief Complaint:
   24 Hour Events:
   - LFTs still rising consistent with shock liver
   - UOP falling and Cr rising with UNa < 10 consistent with pre-renal ATN
   - Pathological reflexes but some mid brain function in tact per neuro
   - Discussed prognosis with family. Change Pt to DNR
   - Will continue to monitor status. If no neurologic recovery in the
   next day or so will likely withdrawal care
   - Severe hyperK to 6.3 in the PM. Treated with PR kayexalate, CaGluc
   4g, dextrose 25g, an insulin 10U IV. K fell to 5.4 with persistent
   metabolic acidosis (bicarb < 15)
   - Changed dilantin to PO liquid
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 2 mcg/Kg/min
   Other ICU medications:
   Insulin - Regular - [**2157-4-9**] 04:45 PM
   Dextrose 50% - [**2157-4-9**] 04:45 PM
   Other medications:
   Flowsheet Data as of  [**2157-4-10**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 77 (72 - 85) bpm
   BP: 101/44(57) {98/39(53) - 130/59(74)} mmHg
   RR: 22 (19 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  3,477 mL
                                                                    166 mL
   PO:
             TF:
   IVF:
                                                                  3,117 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                    321 mL
                                                                    184 mL
   Urine:
                                                                    221 mL
                                                                    184 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  3,156 mL
                                                                    -18 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 391 (391 - 391) mL
   RR (Set): 16
   RR (Spontaneous): 34
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 90
   PIP: 3 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.35/26/141/14/-9
   Ve: 13.3 L/min
   PaO2 / FiO2: 353
   Physical Examination
   General Appearance: nonresponsive
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, respond to noxious stimuli with posturing (extensor)
   Labs / Radiology
   162 K/uL
   8.7 g/dL
   132 mg/dL
   3.6 mg/dL
   14 mEq/L
   5.5 mEq/L
   78 mg/dL
   102 mEq/L
   132 mEq/L
   25.1 %
   11.3 K/uL
        [image002.jpg]
                             [**2157-4-8**]  04:10 PM
                             [**2157-4-8**]  04:18 PM
                             [**2157-4-9**]  01:03 AM
                             [**2157-4-9**]  04:20 AM
                             [**2157-4-9**]  09:32 AM
                             [**2157-4-9**]  09:48 AM
                             [**2157-4-9**]  02:57 PM
                             [**2157-4-9**]  03:04 PM
                             [**2157-4-9**]  06:21 PM
                             [**2157-4-10**]  04:00 AM
   WBC
   14.1
   11.3
   Hct
   30.7
   30.8
   25.1
   Plt
   163
   162
   Cr
   1.9
   2.5
   2.9
   3.1
   3.3
   3.6
   TropT
   0.73
   0.63
   TCO2
   19
   17
   15
   15
   Glucose
   118
   146
   118
   108
   111
   132
   Other labs: PT / PTT / INR:18.5/38.1/1.7, CK / CKMB /
   Troponin-T:327/8/0.63, ALT / AST:533/550, Alk Phos / T Bili:120/0.9,
   Amylase / Lipase:61/, Differential-Neuts:86.7 %, Lymph:7.3 %, Mono:4.9
   %, Eos:0.8 %, Lactic Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:519 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.5 mg/dL, PO4:8.6 mg/dL
   Assessment and Plan
   Patient is an 85 year-old male with a history of CAD s/p CABG [**2143**]
   (SVG-LCx, LIMA-LAD), redo in [**2152**] (SVG>PDA) with AVR, constrictive
   pericarditis who presents from home after PEA arrest, taken emergently
   to cath lab and found to have distal LAD lesion treated with POBA,
   concern for ventricular arrhythmia as etiology of arrest. Now with ARF,
   shock liver and severe anoxic brain injury.
   .
   # Cardiac arrest: Reportedly in PEA arrest initially with conversion to
   VT after CPR.  Differential for PEA arrest includes cardiac ischemia
   induced arrhythmia
 L main vs distal LAD disease treated with POBA,
   CTA negative for PE.
   - Patient s/p cooling protocol with Arctic sun
   - Completed IV Amiodarone load
 will hold on po Amiodarone for now,
   likely VT in setting of ischemia and not primary arrhytmia
   - Serial ABGs, goal CO2 35-40.
   - Continuous EEG monitoring to assess for status epilepticus
f/u on
   final neuro read
   - Pressors as needed to keep MAPs>65, now currently on dopamine as well
   as levophed
   - Continue ASA.  Will continue plavix as reportedly had BMS x 2 in
   9/[**2156**].
   .
   # Neurologic function
 patient with initial lack of corneal reflexes,
   no response to cold calorics, and no response to noxious stimuli with
   evidence of seizure acitivity now improved on dilantin. Neurology has
   been following given concern for severe anoxic brain injury
 awaiting
   final recommendations following rewarming.
   - appreciate neurology recs, re-eval now s/p cooling
   - Consider MRI Head to eval for anoxic brain injury
   - Off all sedation now with no voluntary movements
   - Responds to deep pain with extensor posturing
   - Neuro will reassess today for prognosis and update family
   - Continue dilantin per Neuro
   .
   # Hyperkalemia
 most likely related to ARF
   - K under control for now.
   - Continue to follow
   - Consider goal of care before proceeding to HD/CVVH
   .
   # Acute on Chronic renal failure: Baseline Cr 1.5 now trending up
   - Urine lytes consistent with pre-renal ATN
   - Renally dose all medications
   - Hold off on renal replacement for now
   .
   # Elevated transaminases: Consistent with shock liver.
   - Continue to trend LFTs
   - Avoid hepatically metabolized medications
   .
   #. CAD s/p CABG ([**2143**], redo [**2152**]).  Cardiac catheterization today
   revealed distal LAD disease s/p POBA. CK peaked at 1120 now
   downtrending.
   - Continue ASA, Plavix, high dose statin
   - hold BB given hypotension
   .
   # Rhythm: s/p PEA arrest, converted to VT prior to ED arrival.  Now in
   atrial fibrillation on telemetry.
   - Not on coumadin at outpatient given history of frequent falls.
   - Continue to monitor closely on telemetry.
   .
   #. s/p AVR: Bioprosthetic valve
   -.
   # Constrictive pericarditis: Reportedly with h/o stripping
   # DM, type 2: Discussed with outpatient endocrinologist.
   - 10U NPH [**Hospital1 7**] for now.  FS QID
   .
   #. FEN:
   - OG
   - TF recs
   - Follow electrolytes and replete PRN.
   .
   #. Access:
   - Right femoral line
   - Right femoral Aline - will attempt to change overnight.
   .
   #. PPx: PPI, bowel regimen, heparin SQ
   .
   #. Code: DNR confirmed with family. Order in POE
   .
   #. Dispo: CCU
   .
   # Comm:
   - Daughter [**First Name8 (NamePattern2) **] [**Name (NI) 5998**] [**Telephone/Fax (1) 5999**]
   - Granddaughter [**Name (NI) 1321**] [**Name (NI) 6000**] [**Telephone/Fax (1) 6001**].
   - Grandson [**Name (NI) **] [**Name (NI) 6000**] [**Telephone/Fax (1) 6002**]
   - [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1072**] [**Telephone/Fax (1) 6003**], [**Telephone/Fax (1) 6004**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2157-4-7**] 04:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add, agree with above
   Physical Examination
   nothing to add, agree with above
   Medical Decision Making
   nothing to add, agree with above
   Total time spent on patient care: 50 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 946**]  on:[**2157-4-10**]
   10:10 ------

2157-04-11 06:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family mtg with pt's children. Decided to make pt [**Name (NI) 580**], as most
   consistent with pt's wishes as outlined in his advanced directives
   - Pt extubated, Morphine gtt started, currently at 20/hr as pt
   tachypneic to 30s-40s
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Morphine Sulfate - 12 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-4-11**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.3
   HR: 85 (70 - 92) bpm
   BP: 76/35(45) {76/34(45) - 120/51(92)} mmHg
   RR: 36 (22 - 36) insp/min
   SpO2: 85%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                    386 mL
                                                                    124 mL
   PO:
             TF:
   IVF:
                                                                    326 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                    501 mL
                                                                     70 mL
   Urine:
                                                                    501 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -115 mL
                                                                     54 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   SpO2: 85%
   ABG: ////
   Ve: 13.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   162 K/uL
   8.7 g/dL
   132 mg/dL
   3.6 mg/dL
   14 mEq/L
   5.5 mEq/L
   78 mg/dL
   102 mEq/L
   132 mEq/L
   25.1 %
   11.3 K/uL
        [image002.jpg]
                             [**2157-4-8**]  04:10 PM
                             [**2157-4-8**]  04:18 PM
                             [**2157-4-9**]  01:03 AM
                             [**2157-4-9**]  04:20 AM
                             [**2157-4-9**]  09:32 AM
                             [**2157-4-9**]  09:48 AM
                             [**2157-4-9**]  02:57 PM
                             [**2157-4-9**]  03:04 PM
                             [**2157-4-9**]  06:21 PM
                             [**2157-4-10**]  04:00 AM
   WBC
   14.1
   11.3
   Hct
   30.7
   30.8
   25.1
   Plt
   163
   162
   Cr
   1.9
   2.5
   2.9
   3.1
   3.3
   3.6
   TropT
   0.73
   0.63
   TCO2
   19
   17
   15
   15
   Glucose
   118
   146
   118
   108
   111
   132
   Other labs: PT / PTT / INR:18.5/38.1/1.7, CK / CKMB /
   Troponin-T:327/8/0.63, ALT / AST:533/550, Alk Phos / T Bili:120/0.9,
   Amylase / Lipase:61/, Differential-Neuts:86.7 %, Lymph:7.3 %, Mono:4.9
   %, Eos:0.8 %, Lactic Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:519 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.5 mg/dL, PO4:8.6 mg/dL
   Assessment and Plan
   Patient is an 85 year-old male with a history of CAD s/p CABG [**2143**]
   (SVG-LCx, LIMA-LAD), redo in [**2152**] (SVG>PDA) with AVR, constrictive
   pericarditis who presents from home after PEA arrest, taken emergently
   to cath lab and found to have distal LAD lesion treated with POBA,
   concern for ventricular arrhythmia as etiology of arrest. Now with ARF,
   shock liver and severe anoxic brain injury.
   .
   # Cardiac arrest: Reportedly in PEA arrest initially with conversion to
   VT after CPR.  Differential for PEA arrest includes cardiac ischemia
   induced arrhythmia
 L main vs distal LAD disease treated with POBA,
   CTA negative for PE.
   - Patient s/p cooling protocol with Arctic sun
   - Completed IV Amiodarone load
 will hold on po Amiodarone for now,
   likely VT in setting of ischemia and not primary arrhytmia
   - Serial ABGs, goal CO2 35-40.
   - Continuous EEG monitoring to assess for status epilepticus
f/u on
   final neuro read
   - Pressors as needed to keep MAPs>65, now currently on dopamine as well
   as levophed
   - Continue ASA.  Will continue plavix as reportedly had BMS x 2 in
   9/[**2156**].
   .
   # Neurologic function
 patient with initial lack of corneal reflexes,
   no response to cold calorics, and no response to noxious stimuli with
   evidence of seizure acitivity now improved on dilantin. Neurology has
   been following given concern for severe anoxic brain injury
 awaiting
   final recommendations following rewarming.
   - appreciate neurology recs, re-eval now s/p cooling
   - Consider MRI Head to eval for anoxic brain injury
   - Off all sedation now with no voluntary movements
   - Responds to deep pain with extensor posturing
   - Neuro will reassess today for prognosis and update family
   - Continue dilantin per Neuro
   .
   # Hyperkalemia
 most likely related to ARF
   - K under control for now.
   - Continue to follow
   - Consider goal of care before proceeding to HD/CVVH
   .
   # Acute on Chronic renal failure: Baseline Cr 1.5 now trending up
   - Urine lytes consistent with pre-renal ATN
   - Renally dose all medications
   - Hold off on renal replacement for now
   .
   # Elevated transaminases: Consistent with shock liver.
   - Continue to trend LFTs
   - Avoid hepatically metabolized medications
   .
   #. CAD s/p CABG ([**2143**], redo [**2152**]).  Cardiac catheterization today
   revealed distal LAD disease s/p POBA. CK peaked at 1120 now
   downtrending.
   - Continue ASA, Plavix, high dose statin
   - hold BB given hypotension
   .
   # Rhythm: s/p PEA arrest, converted to VT prior to ED arrival.  Now in
   atrial fibrillation on telemetry.
   - Not on coumadin at outpatient given history of frequent falls.
   - Continue to monitor closely on telemetry.
   .
   #. s/p AVR: Bioprosthetic valve
   -.
   # Constrictive pericarditis: Reportedly with h/o stripping
   # DM, type 2: Discussed with outpatient endocrinologist.
   - 10U NPH [**Hospital1 7**] for now.  FS QID
   .
   #. FEN:
   - OG
   - TF recs
   - Follow electrolytes and replete PRN.
   .
   #. Access:
   - Right femoral line
   - Right femoral Aline - will attempt to change overnight.
   .
   #. PPx: PPI, bowel regimen, heparin SQ
   .
   #. Code: DNR confirmed with family. Order in POE
   .
   #. Dispo: CCU
   .
   # Comm:
   - Daughter [**First Name8 (NamePattern2) **] [**Name (NI) 5998**] [**Telephone/Fax (1) 5999**]
   - Granddaughter [**Name (NI) 1321**] [**Name (NI) 6000**] [**Telephone/Fax (1) 6001**].
   - Grandson [**Name (NI) **] [**Name (NI) 6000**] [**Telephone/Fax (1) 6002**]
   - [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1072**] [**Telephone/Fax (1) 6003**], [**Telephone/Fax (1) 6004**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2157-4-7**] 04:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition: